US07767675B2
Step 8. methyl 2-fluoro-4-[3-(methylthio)-1,2,4-triazin-6-yl]benzoate
Methyl 4-(diethoxyacetyl)-2-fluorobenzoate (3.0 g, 0.01 mol) was dissolved in ethanol (30 mL). Thiosemicarbazide (1.2 g, 0.013 mol) and p-toluenesulfonic acid monohydrate (100 mg) were added to the reaction mixture. The reaction mixture was heated at 90° C. for 2 h. After cooling, the reaction mixture to ambient temperature methyl iodide (3 mL, 0.05 mol) was added. The reaction mixture was stirred at RT for 2 h, and then concentrated under reduced pressure. The residue was dissolved in acetic acid (50 mL), and heated at 60° C. for 2 h. The reaction mixture was concentrated under reduced pressure. The residue was taken up in methanol and the precipitate was collected by filtration and dried under reduced pressure to give the desired product. (1.2 g, 41%).

reactant | Methyl 4-(diethoxyacetyl)-2-fluorobenzoate | 0.01 mol, 3.0 g | C(C)OC(C(=O)C1=CC(=C(C(=O)OC)C=C1)F)OCC | C14H17FO5
reactant | Thiosemicarbazide | 0.013 mol, 1.2 g | NNC(=S)N | CH5N3S
reactant | p-toluenesulfonic acid monohydrate | 100 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | methyl iodide | 0.05 mol, 3 mL | CI | CH3I
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | methyl 2-fluoro-4-[3-(methylthio)-1,2,4-triazin-6-yl]benzoate | FC1=C(C(=O)OC)C=CC(=C1)C1=CN=C(N=N1)SC | C12H10FN3O2S
